US04956360
REFERENCE EXAMPLE 42 3-(4-Ethoxycarbonyloxycinnamoyl)amino-ε-caprolactam
Ethyl chloroformate (22.2 ml) was added dropwise to a mixture of 3-hydroxy-4-methoxycinnamic acid (22.5 g), triethylamine (32.3 ml) and THF (400 ml) under ice-cooling and stirring, followed by stirring for 15 mins. Subsequently, to the mixture was added dropwise a solution of 3-amino-ε-caprolactam (14.9 g) in THF (200 ml), and then the whole was stirred for 1 hr. at room temperature. After completing the dropping, the reaction mixture was concentrated under reduced pressure, and the residue was dissolved in chloroform. This solution was washed with water, dried and distilled under reduced pressure to remove the solvent. The residue was washed with ethyl acetate, dried under reduced pressure to give the title compound (28 g). This compound was used in the following reaction without purification.

reactant | Ethyl chloroformate | 22.2 ml | ClC(=O)OCC | C3H5ClO2
reactant | 3-hydroxy-4-methoxycinnamic acid | 22.5 g | OC=1C=C(C=CC(=O)O)C=CC1OC | C10H10O4
reactant | triethylamine | 32.3 ml | C(C)N(CC)CC | C6H15N
reactant | 3-amino-ε-caprolactam | 14.9 g | NC1CC(=O)NCCC1 | C6H12N2O
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | THF | 400 ml | C1CCOC1 | C4H8O
product | 3-(4-Ethoxycarbonyloxycinnamoyl)amino-ε-caprolactam | 28 g | C(C)OC(=O)OC1=CC=C(C=CC(=O)NC2CC(=O)NCCC2)C=C1 | C18H22N2O5
